* Actual SKY130 transistor frontend; ideal R/C passives, schematic only.
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/frontend/results/large_load/linearity_tt_1.8_27_g16_r1_sw/frontend_pdk_snapshot.spice
.temp 27
VDD VDD 0 1.8
VCM VCM 0 0.9
VIP SP 0 0.9
BIN SN 0 v=1.8-v(sp)

RSP SP IP 350
RSN SN IN 350
VSEL0 SEL0 0 0
VSEL1 SEL1 0 1.8
XPGA IP IN OP ON VDD 0 VCM SEL0 SEL1 sky130_v2_switchable_pga
CLP OP 0 81.285p
CLN ON 0 81.285p
.control
set noaskquit
set wr_singlescale
set wr_vecnames

dc VIP 0.8875000000000001 0.9125 0.0003125
let od=v(op)-v(on)
let id=v(sp)-v(sn)
let cm=(v(op)+v(on))/2
wrdata linearity.dat id od cm
quit
.endc
.end
